Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
___ Endotracheal intubation 
___ Left internal jugular central venous catheter placement
 
History of Present Illness:
___ with HIV on HAART (CD4 594, undetectable VL in ___ and HCV 
cirrhosis (VL 1,200,000 IU/mL in ___ admitted ___ with weeks 
of progressive painful abdominal distention, vomiting, and 
urinary frequency. Her BP in the ED 82/52 with HR 92. She was 
diagnosed with UTI and started on cipro, as well flagyl for 
possible ascending colitis seen on CT. Urine Cx prelim growing 
>100K GNR. Given 50 g albumin for borderline hypotension. 
Paracentesis showed WBC 29 RBC 194. This AM triggered for BP 
70/p HR 100 RR 16 O2sat 96%RA with associated lethargy, 
epistaxis, and bleeding from below (unclear if vaginal or 
rectal). Hct 24.4 from 31.1 24 hrs prior. Given 2U pRBC. SBP 
improved to ___. Transfered to MICU. Upon arrival complains of 
epigastric pain, nausea, lightheadedness, and mild dyspnea. No 
fever, chills, cough, chest pain, diarrhea, or melena. 
 
Past Medical History:
-HIV (CD4 594, undetectable VL in ___  
-HCV cirrhosis (VL 1,200,000 IU/mL in ___ - no known varices  
-Bipolar disorder  
-h/o polysubstance abuse  
-h/o genital HSV  

 
Social History:
___
Family History:
Mother with DM, MI at ___, deceased at ___. Father deceased at ___ 
from melanoma. Sister with asthma. 
 
Physical Exam:
MICU ADMISSION EXAM
VS: 97.3 107 114/71 24 97%2L 
GEN: Mildly uncomfortable  
HEENT: icteric dry MM  
NECK: supple no JVD  
CV: reg tachy II/VI flow murmur at base  
Pulm: diminished at bases no w/r/r  
Abd: soft protuberant tympanitic mild epigastric tenderness to 
deep palp normoactive BS  
Extremities: warm, dry 2+ symmetrical ___ edema  
Skin: confluent tender erythema on lateral left leg (outlined) 
no crepitus or fluctuance  
Neuro/Psych: alert oriented to person, place, month/year, day of 
week, no asterixis  

 
Pertinent Results:
___ 7:45 am URINE     Site: CATHETER

   URINE CULTURE (Preliminary): 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         WARNING! This isolate is an extended-spectrum 
beta-lactamase
         (ESBL) producer and should be considered resistant to 
all
         penicillins, cephalosporins, and aztreonam. Consider 
Infectious
         Disease consultation for serious infections caused by
         ESBL-producing species. 
         This isolate demonstrates carbapenemase production. 
Consider
         Infectious Disease Consultation.. 
         Tigecycline <= 1 MCG/ML = SENSITIVE. 
         Tigecycline & TETRACYCLINE sensitivity testing 
performed by
         Microscan. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMIKACIN--------------     4 S
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------  =>___ R
CEFTRIAXONE-----------       R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------       R
NITROFURANTOIN--------   256 R
PIPERACILLIN/TAZO----- =>128 R
TETRACYCLINE----------   <=4 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

___ 9:50 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Preliminary): 
      Further incubation required to determine the presence or 
absence of
      commensal respiratory flora. 
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH. 

___ CT ABD/PELVIS 
1. Increased, large amount of simple ascites. Extensive 
anasarca.  
2. Shrunken nodular liver suggesting cirrhosis. Liver appears 
somewhat 
decreased in size since ___ which may be due to worsening 
cirrhosis but also due to some compression from the large amount 
of adjacent ascites. 
3. Thickened ascending colon wall which may be secondary to 
ascites/third 
spacing, although an underlying colitis (ischemic, infectious, 
inflammatory) 
cannot be excluded. Clinical correlation and close follow-up 
advised. 
4. Status post cholecystectomy. 

___ 04:00PM ASCITES WBC-29* RBC-194* Polys-29* Lymphs-20* 
___ Mesothe-5* Macroph-46*
___ 04:00PM OTHER BODY FLUID TotProt-0.4 Albumin-0.3
 
Brief Hospital Course:
#Uroseptic shock - Treated empirically with cipro/flagyl 
followed by vanc/cipro/aztreonam (given PCN allergy) upon 
arrival to the ICU. Urine culture grew ESBL Klebsiella 
pneumoniae and cipro/aztreonam were exchanged for amikacin and 
tigecycline. Single-agrent vasopressor therapy was required. 
.
#Hypoxemic respiratory failure - Attributed to ARDS vs. TRALI 
vs. volume overload in the setting of multiple transfusions. 
Intubated ___ in concordance with the patient's wishes. 
.  
#Coagulopathy - Attributed to DIC superimposed on baseline 
cirrhotic coagulopathy. Supported with pRBC, FFP, and cryo.
.  
#Acute renal failure - Initially improved with albumin and blood 
products. Renal function subsequently declined in the setting of 
diuresis.  
.  
#HCV Cirrhosis - Continued lactulose and rifaximin. 
.  
#HIV - Continued ARV.
.
#End of life care - On the ___ hospital day ___ ventilator 
day), as the patient had not improved significantly and had a 
poor prognosis, the patient's two sisters (one of whom is 
healthcare proxy) and brother chose to pursue comfort measures 
only. Fentanyl and versed infusions were stopped and the patient 
was terminally extubated once she displayed some spontaneous 
respiratory effort. She passed away at 8:05 ___. Her family was 
notified, and they declined autopsy. Covering overnight 
intensivist notified. 

 
Medications on Admission:
1. Pantoprazole 40 mg po q12h  
2. Sucralfate 1 gram po qid  
3. Rifaximin 550 mg po bid  
4. Efavirenz 600 mg po dailyl  
5. Emtricitabine-Tenofovir 200-300 mg po daily  
6. Paroxetine HCl 60 mg po daily  
7. Spironolactone 100 mg po daily  
8. Lactulose 10 gram/15 mL Thirty (30) mL PO qid.  
9. Ergocalciferol (Vitamin D2) 50,000 unit po q week  
10. Gabapentin 600 mg po qhs  
11. Multivitamin po daily  
12. Furosemide 40 mg po daily  
13. Zyprexa 5 mg po daily  

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Uroseptic shock 
Hypoxemic respiratory failure 
Coagulopathy
Acute kidney injury 
Hepatitis C cirrhosis 
Human immunodeficiency virus 

 

 

 
Discharge Condition:
Expired

 
Discharge Instructions:
N/A 
 
Followup Instructions:
___